US06162927
N-butyl-N-(3-hydroxymethylphenyl)-amine
To a solution of 3.69 g (30 mmol) of 3-amino benzyl alcohol in 20 ml DMSO was added 3.78 g (45 mmol) solid NaHCO3 and 2.91 ml (27 mmol) 1-bromobutane. The reaction was allowed to stir at 50° C. for 18 hours (overnight). Reaction was worked up by adding 250 ml water and product was extracted in ethyl acetate. Water was added, and the resultant mixture was extracted with EtOAc. The organic layer was washed with water and brine.

reactant | 3-amino benzyl alcohol | 30 mmol, 3.69 g | NC=1C=C(CO)C=CC1 | C7H9NO
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | 1-bromobutane | 27 mmol, 2.91 ml | BrCCCC | C4H9Br
reactant | water | 250 ml | O | H2O
solvent | DMSO | 20 ml | CS(=O)C | C2H6OS
product | N-butyl-N-(3-hydroxymethylphenyl)-amine | C(CCC)NC1=CC(=CC=C1)CO | C11H17NO
